US07662828B2
Trifluoroacetic acid 6.2 ml (81 mmol) was added to a solution of 2-(3-chloro-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester 487 mg (1.25 mmol) in CH2Cl2 (8 ml) under nitrogen as inert gas and stirring was performed for 1.5 h at RT. After removal of the solvent, the intermediate (3-chloro-N-(5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-benzamide trifluoroacetate) was dissolved in CH2Cl2 (15 ml). After the addition of triethylamine 820 μl (5.84 mmol), the solution was cooled to 0° C. and 3-bromo benzenesulfonyl chloride 311 mg (1.37 mmol) was added. The reaction mixture was stirred for 1 h at 0° C. and then overnight at RT. After removal of the solvent, purification was performed by means of column chromatography and the product N-[6-(3-bromo-benzenesulfonyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-3-chloro-benzamide 525 mg (81% of theoretical) was obtained.

reactant | Trifluoroacetic acid | 81 mmol, 6.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(3-chloro-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 1.25 mmol, 487 mg | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)NC(C2=CC(=CC=C2)Cl)=O)CC1 | C19H21ClN4O3
reactant | triethylamine | 5.84 mmol, 820 μl | C(C)N(CC)CC | C6H15N
reactant | 3-bromo benzenesulfonyl chloride | 1.37 mmol, 311 mg | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | N-[6-(3-bromo-benzenesulfonyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-3-chloro-benzamide | 525 mg, 81% | BrC=1C=C(C=CC1)S(=O)(=O)N1CC2=C(N=C(N=C2)NC(C2=CC(=CC=C2)Cl)=O)CC1 | C20H16BrClN4O3S
